US07807690B2
(1d) 2-Bromo-5-nitrobenzylamine
To a mixture of 2-azidomethyl-1-bromo-4-nitrobenzene (6.57 g) and THF (50 mL) there was added triphenylphosphine (7.05 g) at 0° C. under a nitrogen atmosphere. The mixture was stirred at 0° C. for 1 hour and then at room temperature for 2 hours, after which water (10 mL) was added and the mixture was heated to reflux for 15 hours. The solvent in the mixture was distilled off under reduced pressure and the residue was purified by NH silica gel column chromatography (ethyl acetate-heptane mixture) to obtain the target compound (5.64 g) as a colorless solid.

reactant | 2-azidomethyl-1-bromo-4-nitrobenzene | 6.57 g | N(=[N+]=[N-])CC1=C(C=CC(=C1)[N+](=O)[O-])Br | C7H5BrN4O2
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | triphenylphosphine | 7.05 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | 10 mL | O | H2O
product | 2-Bromo-5-nitrobenzylamine | 5.64 g | BrC1=C(CN)C=C(C=C1)[N+](=O)[O-] | C7H7BrN2O2
